US05480884
2-Isopropylamino-5-methoxycarbonylpyrimidine
A mixture of 11.62 g (77.5 mmol) of isopropylguanidine hydrogen sulfate, 32 ml (5 eq; 0.37 mol) of freshly distilled pyrrolidine in 230 ml of anhydrous methanol is refluxed for twenty minutes. A methanolic solution (60 ml) of methoxymalonaldehyde (1 eq; 77.5 mmol; 10 g) is added to the above solution at 0° C. as well as 140 g of molecular sieve (4 A °). The reaction medium is stirred under argon and under reflux for 24 hours. The molecular sieves are removed by filtration and then rinsed with methanol. Evaporation of the filtrate gives a residue which is taken up with ethyl acetate and then acidified with a 1N hydrochloric acid solution. The organic phases are washed with a saturated sodium chloride solution, dried over sodium sulfate, evaporated and purified on silica gel under 200 mb (eluent: 50 ethyl acetate/50 heptane).

reactant | isopropylguanidine hydrogen sulfate | 77.5 mmol, 11.62 g | S(=O)(=O)(O)O.C(C)(C)NC(=N)N
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | methoxymalonaldehyde | 77.5 mmol, 60 ml, 10 g, 1 eq | COC(C=O)C=O | C4H6O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methanol | 230 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Isopropylamino-5-methoxycarbonylpyrimidine | C(C)(C)NC1=NC=C(C=N1)C(=O)OC | C9H13N3O2
